US09290511B2
i) 8-(2-chloro-5-phenyl-thieno[2,3-d]pyrimidin-4-yl)-8-azabicyclo[3.2.1]octan-3-ol
Tetrahydrofuran (2 mL) and triethylamine (0.10 mL, 0.71 mmol) were added to 2,4-dichloro-5-phenyl-thieno[2,3-d]pyrimidine (100 mg, 0.356 mmol) and 8-azabicyclo[3.2.1]octan-3-ol (68 mg, 0.53 mmol). The mixture was stirred overnight at room temperature. Ethyl acetate (2 mL) and water (2 mL) were added and the layers were separated. The aqueous was extracted with ethyl acetate (2×2 mL). The combined organic layers were dried (magnesium sulfate), filtered and evaporated to give a brown solid (127 mg). This was purified by silica chromatography (10 g cartridge; eluent petroleum ether 40-60/ethyl acetate 0 to 30%; all output collected). One set of fractions was identified and the relevant fractions were combined and evaporated to give a brown solid (83 mg). This was purified again by LCUV (acidic method 1) to give the target compound as a white solid (44 mg). m/z [M+H]+372.0/373.9. Retention time 4.74 min (LCMS method+ve 6 min).

reactant | Tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | triethylamine | 0.71 mmol, 0.10 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloro-5-phenyl-thieno[2,3-d]pyrimidine | 0.356 mmol, 100 mg | ClC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)Cl | C12H6Cl2N2S
reactant | 8-azabicyclo[3.2.1]octan-3-ol | 0.53 mmol, 68 mg | C12CC(CC(CC1)N2)O | C7H13NO
solvent | water | 2 mL | O | H2O
solvent | Ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | 8-(2-chloro-5-phenyl-thieno[2,3-d]pyrimidin-4-yl)-8-azabicyclo[3.2.1]octan-3-ol | 127 mg | ClC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)N2C1CC(CC2CC1)O | C19H18ClN3OS
